US05470870
Step c: DL-4,6,Dichlorotryptophan ethyl ester
Dissolve ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate (1.10 g, 3.65 mmol) in acetic acid (200 mL) and add activated zinc dust (1.25 g, 19.2 mmol). Stir at room temperature for 72 hours. Evaporate the acetic acid in vacuo to give a white oil. Take the white oil up in ethyl acetate (200 mL) and treat with saturated sodium hydrogen carbonate (500 mL). Filter the resulting white precipitate and separate the organic phase. Wash with saturated sodium hydrogen carbonate (100 mL) and brine (100 mL). Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as an amber oil (1.02 g, 98%).

reactant | ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate | 3.65 mmol, 1.10 g | ON=C(C(=O)OCC)CC1=CNC2=CC(=CC(=C12)Cl)Cl | C13H12Cl2N2O3
reactant | sodium hydrogen carbonate | 500 mL | C(O)([O-])=O.[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 19.2 mmol, 1.25 g | [Zn] | Zn
product | 4,6,Dichlorotryptophan ethyl ester | 1.02 g, 98% | C(C)OC([C@@H](N)CC1=CNC2=CC(=CC(=C12)Cl)Cl)=O | C13H14Cl2N2O2
